US06737124B2
45. 5-Decyl-2-(4-{4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butoxy}-phenyl)-pyrimidine
A suspension of 4-(5-decyl-pyrimidin-2-yl)-phenol (3.744 g, 13.00 mmol), toluene-4-sulfonic acid 4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butyl ester (7.58 g, 13.00 mmol) and cesium carbonate (4.69 g, 14.4 mmol) in DMF (35 ml) was stirred at room temperature for 24 h. The reaction mixture was washed with water and the organic layer extracted into ethyl acetate/hexane (3×20 ml, 1:1). The combine extracts were washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residues were purified by column chromatography [silica gel, hexane/ethyl acetate (9:1)] to yield a colorless solid, which was recrystallized from acetonitrile.

reactant | 4-(5-decyl-pyrimidin-2-yl)-phenol | 13.00 mmol, 3.744 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | toluene-4-sulfonic acid 4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butyl ester | 13.00 mmol, 7.58 g | C[Si](CCCCOS(=O)(=O)C1=CC=C(C=C1)C)(CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C | C21H25F13O3SSi
reactant | cesium carbonate | 14.4 mmol, 4.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 5-Decyl-2-(4-{4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butoxy}-phenyl)-pyrimidine | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCC[Si](CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C)C | C34H45F13N2OSi
